* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL triout
* KICAD_SINGLETON_LABEL sinout
.include "ICL8038.lib"
R3 0 N007 82k
XU1 NC_U1_1_1 sinout triout N003 N001 vdd N004 N004 squout N002 0 N007 ICL8038
R1 N003 vdd 10k
R4 vdd squout 82k
C1 N002 0 33n
R2 N001 vdd 10k
V1 vdd 0 10
.tran 1
.backanno
.end
